US04777267
Sodium hydroxide (4.01 g) was dissolved in 100 ml of water, and 17.32 g of 2-aminobenzenesulfonic acid was dissolved in the solution. Then, 20 ml of conc. hydrochloric acid was added. To the resulting suspension a solution of 6.90 g of sodium nitrite in 20 ml of water was gradually added at 1° to 3° C. to give the suspension of the diazonium salt. On the other hand, 3.21 g of sulfur and 24.0 g of sodium sulfide nonahydrate were co-melted and then dissolved in 100 ml of water. The suspension of the diazonium salt was added to the above solution, and the mixture was heated. After bubbling ceased, the temperature of the reaction mixture was returned to room temperature, and the insoluble materials were separated by filtration. The filtrate was concentrated to dryness, and the residue was dissolved in 200 ml of methanol. The insoluble materials were separated by filtration, and the solvent was evaporated under reduced pressure. The residue was dissolved in 120 ml of water, and 30 ml of acetic acid and 20 g of zinc were added. The insoluble materials were separated by filtration, and the reaction mixture was extracted with a mixed solvent of aniline and benzene (1/1, v/v). The solvent was evaporated under reduced pressure, and the resulting resinous product was stirred in about 150 ml of benzene. The resulting powder was collected by filtration, and crystallized from methanol to give 5.39 g of anilinium 2-mercaptobenzenesulfonate as colorless crystals.

reactant | Sodium hydroxide | 4.01 g | [OH-].[Na+]
reactant | 2-aminobenzenesulfonic acid | 17.32 g | NC1=C(C=CC=C1)S(=O)(=O)O | C6H7NO3S
reactant | hydrochloric acid | 20 ml | Cl | ClH
reactant | sodium nitrite | 6.90 g | N(=O)[O-].[Na+]
reactant | sulfur | 3.21 g | [S] | S
reactant | sodium sulfide nonahydrate | 24.0 g | O.O.O.O.O.O.O.O.O.[S-2].[Na+].[Na+]
solvent | water | 100 ml | O | H2O
solvent | water | 20 ml | O | H2O
solvent | water | 100 ml | O | H2O
product | anilinium 2-mercaptobenzenesulfonate | 5.39 g | SC1=C(C=CC=C1)S(=O)(=O)[O-].[NH3+]C1=CC=CC=C1 | InChI=1S/C6H7N.C6H6O3S2/c7-6-4-2-1-3-5-6;7-11(8,9)6-4-2-1-3-5(6)10/h1-5H,7H2;1-4,10H,(H,7,8,9)
